US08476430B2
To a solution of 5-chloro-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-6-amine (Ex. 1, A) (1.34 g, 5.04 mmol) in DMF (30 mL) at 0° C. was added sodium ethanethiolate (0.509 g, 6.05 mmol) in one portion. The resulting mixture was stirred at rt for 1 hr before it was diluted with ethyl acetate (300 mL) and washed sequentially with 5% NaHCO3 (50 mL), water (2×50 mL), and brine (50 mL). The organic layer was dried over anhydrous MgSO4 and concentrated under vacuum. The product, 5-(ethylthio)-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-6-amine (1.333 g, 4.58 mmol, 91% yield), was isolated as a yellow solid by ISCO (120 g silica gel, solid loading, 2-5% MeOH/CH2Cl2).

reactant | 5-chloro-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-6-amine | ClC=1N=C(N=NC1N)C1=C(C(=CC=C1)[N+](=O)[O-])C | C10H8ClN5O2
reactant | sodium ethanethiolate | 6.05 mmol, 0.509 g | C(C)[S-].[Na+]
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 5-(ethylthio)-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-6-amine | 4.58 mmol, 1.333 g, 91% yield | C(C)SC=1N=C(N=NC1N)C1=C(C(=CC=C1)[N+](=O)[O-])C | C12H13N5O2S
